US08802688B2
Step 3: 6-(2-tert-butoxy-2-oxoethoxy)-2-chloroquinoline-3-carboxylic acid
To a suspension of tert-butyl 2-(2-chloro-3-formylquinolin-6-yloxy)acetate (3.6 g, 11 mmol) in tert-butanol (150 mL) was added 2-methyl-2-butene (14.9 mL, 133 mmol) and a solution of sodium chlorite (8.27 g, 73.1 mmol) and sodium dihydrogenphosphate (8.10 g, 58.7 mmol) in water (50 mL). The reaction was allowed to stir at room temperature for 1 hour. The tert-butanol was removed in vacuo. The mixture was diluted with water (60 mL) and acidified to pH=4 with 1 N aqueous hydrochloric acid. The resulting precipitate was filtered, washed with water, and dried under vacuum to give the title compound (3.7 g, 100%) as a white solid. +ESI (M+H) 338.1; 1H NMR (400 MHz, CD3OD, δ): 8.69 (s, 1 H), 7.89 (d, J=9.19 Hz, 1 H), 7.56 (dd, J=9.19, 2.74 Hz, 1 H), 7.34 (d, J=2.93 Hz, 1 H), 4.76 (s, 2 H), 1.49 (s, 9 H).

reactant | tert-butyl 2-(2-chloro-3-formylquinolin-6-yloxy)acetate | 11 mmol, 3.6 g | ClC1=NC2=CC=C(C=C2C=C1C=O)OCC(=O)OC(C)(C)C | C16H16ClNO4
reactant | 2-methyl-2-butene | 133 mmol, 14.9 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 73.1 mmol, 8.27 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 58.7 mmol, 8.10 g | P(=O)(O)(O)[O-].[Na+]
solvent | tert-butanol | 150 mL | C(C)(C)(C)O | C4H10O
solvent | water | 50 mL | O | H2O
product | 6-(2-tert-butoxy-2-oxoethoxy)-2-chloroquinoline-3-carboxylic acid | 3.7 g, 100% | C(C)(C)(C)OC(COC=1C=C2C=C(C(=NC2=CC1)Cl)C(=O)O)=O | C16H16ClNO5
